US08609672B2
A mixture of K2CO3 (6 gm, 43.5 mmol, 3 equiv) and Pd(PPh3)4 (1 gm, 0.86 mmol) were stirred at room temperature in 20 mL THF/water (1:1) for 30 minutes. Tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate (5 gm, 14.5 mmol, 1 equiv) was then added with B-benzyl-9-BBN (2 equiv, 49 ml of a 0.5 M solution in THF). The resulting mixture was heated with stirring under argon atmosphere in an oil bath adjusted at 100-110° C. until the reaction had reached completion, as monitored by TLC. The reaction mixture was extracted with CHCl3 (3×200 mL). The combined organic layers were then dried with anhydrous Na2SO4. Chloroform was evaporated under reduced pressure and the residue was purified using flash column chromatography (initially with 4:1 hexane/ethyl acetate and finally with 1:1 hexane/ethyl acetate). Tert-butyl 4-(5-benzylpyrimidin-2-yl)piperazine-1-carboxylate was obtained as a yellow solid (3.8 gm, 74% yield); mp: 121-123° C. 1H-NMR (DMSO-d6): δ 1.47 (s, 9H), 3.47 (t, J=4.68 Hz, 4H), 3.75 (t, J=4.68 Hz, 4H), 3.78 (s, 2H), 7.14-7.29 (m, 5H), 8.16 (s, 2H). 13C-NMR (DMSO-d6): δ 28.4, 35.61, 43.70, 79.92, 122.29, 126.41, 128.51, 128.66, 140.02, 154.84, 157.87, 160.69. MS: calcd 354.21 for C20H26N4O2 [M]+. found, 355.21 [M+1]+. b) 3.7 gm of the obtained product from step a was then deprotected using HCl/MeOH as described above in the preparation of 1. As a result, compound 2 was obtained as a pale yellow solid (2.2 gm, 80% yield); mp: 108-110° C. 1H-NMR (DMSO-d6): δ 1.89 (s, 1H), 2.93 (t, J=4.8 Hz, 4H), 3.76 (t, J=4.8 Hz, 4H), 3.79 (s, 2H), 7.17-7.29 (m, 5H), 8.18 (s, 2H). 13C-NMR (DMSO-d6): δ 35.59, 44.96, 45.92, 121.79, 126.34, 128.48, 128.6, 140.1, 157.8, 160.5. MS: calcd 254.15 for C15H18N4 [M]+. found, 255.15 [M+1]+.

reactant | K2CO3 | 43.5 mmol, 6 gm, 3 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | Tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate | 14.5 mmol, 5 gm, 1 equiv | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | B-benzyl-9-BBN | B1(C2CCCC1CCC2)CC3=CC=CC=C3 | C15H21B
solvent | THF water | 20 mL | C1CCOC1.O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.86 mmol, 1 gm | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Tert-butyl 4-(5-benzylpyrimidin-2-yl)piperazine-1-carboxylate | C(C1=CC=CC=C1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H26N4O2
